US07700633B2
To a solution of 6-benzyloxy-5-bromo-7-nitro-1,2,3,4-tetrahydronaphthalene (0.50 g, 1.38 mmol) in AcOH/EtOH (3:1, 20 mL), is added iron powder (0.50 g, 9.25 mmol). The mixture is heated at 100° C. for 2 h. The precipitate is filtered through Celite. The filtrate is concentrated, extracted with water and CH2Cl2, and filtered. The crude material is purified via Biotage, eluting with 0-20% EtOAc/hexanes, to afford 3-benzyloxy-4-bromo-5,6,7,8-tetrahydronaphthalen-2-ylamine: (M+H)=333, 334.

reactant | 6-benzyloxy-5-bromo-7-nitro-1,2,3,4-tetrahydronaphthalene | 1.38 mmol, 0.50 g | C(C1=CC=CC=C1)OC=1C(=C2CCCCC2=CC1[N+](=O)[O-])Br | C17H16BrNO3
solvent | AcOH EtOH | 20 mL | CC(=O)O.CCO
catalyst | iron | 9.25 mmol, 0.50 g | [Fe] | Fe
product | 3-benzyloxy-4-bromo-5,6,7,8-tetrahydronaphthalen-2-ylamine | C(C1=CC=CC=C1)OC=1C(=CC=2CCCCC2C1Br)N | C17H18BrNO
